data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_513383_1,[C:1]([N:2](/[C:3]([N:5]([H:11])[H:12])=[N:7]\[H:13])[N:4]([H:9])[H:10])([C:6](=[O:8])[H:16])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[N:2]([N:4]([H:9])[H:10])[C@:6]1([O:8]/[C:3]([N:5]([H:11])[H:12])=[N:7]\[H:13])[H:16],68.85431999997579
MR_150883_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])([N:4]([C:5]([N:6]([H:11])[H:12])=[O:8])[O:7][H:9])[H:10]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])([O:8]/[C:5](=[N:4]\[O:7][H:9])[N:6]([H:11])[H:12])[H:10],64.28611999998822
MR_246971_1,[N:1]([C:4](/[C:2](=[N:6]\[H:9])[H:10])([C:3](=[O:5])[H:11])[H:12])([H:7])[H:8]>>[N:1](/[C:4](=[C:3](\[O:5]/[C:2](=[N:6]\[H:9])[H:10])[H:11])[H:12])([H:7])[H:8],50.52755499998341
MR_654051_1,[C:1](/[C:5](=[C:3](\[N:2]([C:4](=[O:8])[H:11])[O:6][H:9])[O:7][H:10])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C@:5](/[C:3](=[N:2]/[O:6][H:9])[O:7][H:10])([C:4](=[O:8])[H:11])[H:12])([H:13])([H:14])[H:15],41.58317000002285
MR_665073_0,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([O:6][H:7])[H:8])([N:4]([H:9])[H:11])[N:5]([H:10])[H:12]>>[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[H:8])([N:4]([H:9])[H:11])([N:5]([H:10])[H:12])[O:6][H:7],60.88507000001442
MR_291587_1,[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[C:4]2([H:14])[C:5]([H:15])([C:3]1=[O:8])[C:6]([H:16])([H:17])[N:7]2[H:9]>>[C:1]([C:2](/[C:4](=[N:7]\[H:9])[H:14])([H:12])[H:13])([C:3]([C:5](=[C:6]([H:16])[H:17])[H:15])=[O:8])([H:10])[H:11],71.18234500001918
MR_103638_1,[C:1]1([H:9])([H:10])[N:3]([H:7])[N:4]([H:8])[C:6]([H:11])=[C:5]1[C:2]([H:12])([H:13])[H:14]>>[C:1]1([H:9])([H:10])[N:3]([H:7])[C@:5]1([C:2]([H:12])([H:13])[H:14])/[C:6](=[N:4]/[H:8])[H:11],54.3578149999793
MR_473567_2,[C:1]1([C:3]([H:16])([H:17])[H:18])([H:10])[C:2]([H:14])([H:15])/[C:6](=[N:9]/[H:13])[C:5]12/[C:4](=[N:7]/[H:11])[N:8]2[H:12]>>[C:1]1([C:3]([H:16])([H:17])[H:18])([H:10])[C:2]([H:14])([H:15])[C:6](=[N:9]/[H:13])/[C:4](=[N:7]\[H:11])[C:5]\1=[N:8]/[H:12],49.25184749999403
MR_595631_1,[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])/[C:7](=[C:8](\[C:3]([H:19])([H:20])[H:21])[H:15])[H:14]>>[C:1]([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])=[C:7]([C:8]([C:3]([H:19])([H:20])[H:21])([C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])[H:15])[H:14],51.42927249998962
MR_506684_1,[C:1](/[C:3]([O:6][H:8])=[N:7]\[N:2]([N:4]([H:10])[H:11])[N:5]([H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C@:3]([N:4]([H:10])[H:11])([O:6][H:8])/[N:7]=[N:2]/[N:5]([H:9])[H:12])([H:13])([H:14])[H:15],37.34126999999617
MR_508815_1,[C:1]1([H:8])([H:9])[N:2]([N:3]([C:4](=[O:6])[H:10])[H:7])[O:5]1>>[C:1]([O:5][N:2]1[N:3]([H:7])[C:4]1[O:6])([H:8])([H:9])[H:10],49.4225275000268
MR_517308_0,[C:1]([C:3]([C:4]1([C:2]([H:15])([H:16])[H:17])[C:5]2([H:10])[C:6]1([H:11])[N:7]2[H:9])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:3](/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:5]([C:6](=[N:7]/[H:9])/[H:11])\[H:10])=[O:8])([H:12])([H:13])[H:14],32.74420500001014
MR_637572_1,[C:1]([C:2]([N:5]([N:6]([H:10])[H:11])[N:7]([O:8][H:15])[H:9])([H:12])[H:13])([C:3]([H:14])([H:16])[H:17])=[C:4]([H:18])[H:19]>>[C:1]([C:2]([N:5]([N:6]([H:10])[H:11])[N:7]=[O:8])([H:12])[H:13])([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[H:9],48.00688749999836
MR_318177_1,[C:1]1([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[C:7](=[O:10])[C:8]1([C:5]([H:20])([H:21])[H:22])/[N:9]=[N:6]/[C:2]([H:11])([H:12])[H:13]>>[C:1]1([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[C:7](=[O:10])[N:6]([C:2]([H:11])([H:12])[H:13])[N:9]=[C:8]1[C:5]([H:20])([H:21])[H:22],18.80805749995432
MR_235289_0,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])([N:5]([O:7][H:9])[O:8][H:10])[O:6][C:2]([H:11])([H:12])[H:13]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])([N:5]([O:6][C:2]([H:11])([H:12])[H:13])[O:7][H:9])[O:8][H:10],61.81816250001276
MR_379121_2,[C:1]1([C:3]([H:13])([H:14])[H:15])([H:9])[C:2]([C:4]([H:16])([H:17])[H:18])([H:10])[C:6]([H:12])=[C:5]1/[N:7]=[N:8]/[H:11]>>[C:1](\[C:3]([H:13])([H:14])[H:15])(=[C:5]([C:6](=[C:2](/[C:4]([H:16])([H:17])[H:18])[H:10])/[H:12])\[N:7]=[N:8]\[H:11])[H:9],29.93927999995805
MR_88323_2,[C:1]([N:3]([H:10])[H:11])(/[C:4](=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:13])[H:12])([O:6][H:9])[O:7][H:8]>>[C@:1]1([N:3]([H:10])[H:11])([O:7][H:8])[C@:4]([O:6][H:9])([H:12])[C@:5]1([C:2]([H:14])([H:15])[H:16])[H:13],59.45123249999625
MR_554694_1,[C:1]([C:3]([C:2]([O:6][H:10])([H:12])[H:13])=[O:7])([C:4](=[O:8])[H:14])([O:5][H:9])[H:11]>>[C:1]([C:2]([O:6][H:10])([H:12])[H:13])([C:3]([C:4](=[O:8])[H:14])=[O:7])([O:5][H:9])[H:11],61.49751000003761
MR_563219_1,[C:1](/[C:3](=[C:2](\[N:4]([H:10])[H:11])[O:6][H:8])[N:5]([H:12])[H:13])([O:7][H:9])([H:14])[H:15]>>[C:1]([C:3](/[C:2](=[N:4]/[H:10])[O:6][H:8])([N:5]([H:12])[H:13])[H:9])([O:7][H:11])([H:14])[H:15],44.45272750001877
MR_583643_0,[N:1]([C:2]([O:5][H:8])=[O:6])([O:4][C:3](=[O:7])[H:10])[H:9]>>[N:1]1([H:9])[C@@:3]([O:7][C:2]([O:5][H:8])=[O:6])([H:10])[O:4]1,72.78937250002812
